### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/PontryaginDual): prove compact monoids have discrete duals

### PR DESCRIPTION
**Pull request by dannyply**
Proves that the Pontryagin dual of a compact monoid is discrete. As a consequence, it also adds the corresponding finite-type instances for compact discrete monoids.

This upstreams a result first added downstream in [`YaelDillies/APAP`](https://github.com/YaelDillies/APAP), where this fact was needed to close a `sorry`. The proof separates the trivial character from all the others using the right half of the circle and adds a few reusable `Circle` helper lemmas near the existing related API.

The original APAP proof was AI-assisted and then reviewed/rewritten during downstream review. For this PR, I used Codex to help adapt the APAP proof to mathlib and to refactor the supporting lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 1]
```diff
@@ -86,6 +87,67 @@ for PontryaginDual A
 /-- A discrete monoid has compact Pontryagin dual. -/
 add_decl_doc instLocallyCompactSpacePontryaginDual
 
+private def rightHalfArc : Set Circle := .exp '' .Ioo (-(π / 2)) (π / 2)
```
Comment (tb65536) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: This argument seems to have some similarities to the proof of local compactness (in the sense that you also consider these sorts of arcs). Can anything in common be extracted?

Comment (tb65536) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: (Btw, one reviewing has started, it's better to avoid force-pushing)

Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Thanks for the hint, I did a small extraction with centeredArc, so now the earlier proof and rightHalfArc both use it.

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 2]
```diff
@@ -86,6 +88,70 @@ for PontryaginDual A
 /-- A discrete monoid has compact Pontryagin dual. -/
 add_decl_doc instLocallyCompactSpacePontryaginDual
 
+private def rightHalfArc : Set Circle := centeredArc (π / 2)
```
Comment (tb65536) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: You shouldn't need this private def now.

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 3]
```diff
@@ -86,6 +88,70 @@ for PontryaginDual A
...
+
+private lemma isOpen_rightHalfArc : IsOpen rightHalfArc := by
```
Comment (tb65536) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: This holds for `centeredArc` in general.

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 4]
```diff
@@ -37,9 +37,10 @@ def PontryaginDual :=
   A →ₜ* Circle
 deriving TopologicalSpace
 
+private def centeredArc (r : ℝ) : Set Circle := Circle.exp '' {x | |x| < r}
+
 instance [LocallyCompactSpace H] : LocallyCompactSpace (PontryaginDual H) := by
-  let Vn : ℕ → Set Circle :=
-    fun n ↦ Circle.exp '' { x | |x| < Real.pi / 2 ^ (n + 1)}
+  let Vn : ℕ → Set Circle := fun n ↦ centeredArc (Real.pi / 2 ^ (n + 1))
   have hVn : ∀ n x, x ∈ Vn n ↔ |Complex.arg x| < Real.pi / 2 ^ (n + 1) := by
```
Comment (tb65536) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: Does this `hVn` generalize to `centeredArc`?

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 5]
```diff
@@ -37,9 +37,10 @@ def PontryaginDual :=
   A →ₜ* Circle
 deriving TopologicalSpace
 
+private def centeredArc (r : ℝ) : Set Circle := Circle.exp '' {x | |x| < r}
```
Comment (tb65536) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: There's no need to make this private (although it should be moved to an earlier file).

File: Mathlib/Topology/Algebra/PontryaginDual.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Can you look through and see if there's any bits of the proofs that are shared in common?

File: Mathlib/Topology/Algebra/PontryaginDual.lean (hunk 2 above)
Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Removed

File: Mathlib/Topology/Algebra/PontryaginDual.lean (hunk 5 above)
Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Moved to Complex/Circle.lean and made it public

File: Mathlib/Topology/Algebra/PontryaginDual.lean (hunk 4 above)
Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: I generalized it as Circle.mem_centeredArc and hVn uses it now

File: Mathlib/Topology/Algebra/PontryaginDual.lean (hunk 3 above)
Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Generalized as Circle.isOpen_centeredArc

File: Mathlib/Topology/Algebra/PontryaginDual.lean (hunk 1 above)
Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: I extracted Circle.mem_centeredArc and Circle.isOpen_centeredArc so the proofs can use common Circle lemmas

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 6]
```diff
@@ -86,6 +84,67 @@ for PontryaginDual A
...
+  have hzarg : |Complex.arg (z ^ n)| < π / 2 :=
+    (Circle.mem_centeredArc (z := z ^ n) (by linarith [pi_pos])).1 (hz n hn)
+  have hpow : Circle.exp ((n : ℝ) * (z : ℂ).arg) = Circle.exp (Complex.arg (z ^ n)) := by
+    rw [Circle.exp_natCast_mul, Circle.exp_arg]
+    exact (Circle.exp_arg (z ^ n)).symm
+  have : cos ((n : ℝ) * (z : ℂ).arg) = cos (Complex.arg (z ^ n)) :=
+    Circle.cos_eq_cos_of_exp_eq_exp hpow
+  have hzargIoo : Complex.arg (z ^ n) ∈ Set.Ioo (-(π / 2)) (π / 2) := by
+    simpa [Set.mem_Ioo] using (abs_lt.mp hzarg)
+  linarith [cos_pos_of_mem_Ioo hzargIoo]
```
Comment (tb65536) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: I think you can extract more in common. For instance:
- Power of `z` in `centeredArc` implies `z` in smaller `centeredArc`.
- `centeredArc`s form a basis at `1`, so membership in sufficiently small `centeredArc`s implies trivial.
For the first one, I'm thinking something like this:
```
theorem Circle.mem_centeredArc_div {z : Circle} {r : ℝ} {n : ℕ} (hr : r ≤ π / 2)
    (h1 : z ∈ centeredArc r) (h2 : z ^ n ∈ centeredArc r) : z ∈ centeredArc (r / n) := by
```

Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Would it be ok to just extract the circle fact that is used and leave a more general centeredArc API for a follow up PR? The more general statements might need more care around wraparound

Comment (tb65536) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Mostly I just think it's worth seeing if we can avoid this duplication of proofs.

Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: I extracted the circle fact used into Circle.lean, so the Pontryagin proof no longer has the duplication. I kept this narrower than a general centeredArc API for now.

Comment (tb65536) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: What about this?
```
theorem centeredArc_eq_empty {r : ℝ} (hr : r ≤ 0) : centeredArc r = ∅ := by
  contrapose! hr
  obtain ⟨-, x, hx, rfl⟩ := hr
  exact (abs_nonneg x).trans_lt hx

@[simp]
theorem centeredArc_zero : centeredArc 0 = ∅ :=
  centeredArc_eq_empty le_rfl

theorem mem_centeredArc_div {z : Circle} {s : ℝ} {n : ℕ} (hs : s ≤ π)
    (h1 : z ∈ centeredArc (π / n)) (h2 : z ^ n ∈ centeredArc s) : z ∈ centeredArc (s / n) := by
  have hs0 : 0 < s := by contrapose! h2; simp [centeredArc_eq_empty h2]
  have hn0 : n ≠ 0 := by contrapose! h1; simp [h1]
  have hn : 1 ≤ (n : ℝ) := by simpa [Nat.one_le_iff_ne_zero]
  rw [mem_centeredArc ((div_le_self hs0.le hn).trans hs), lt_div_iff₀' (one_pos.trans_le hn)]
  rw [mem_centeredArc (div_le_self pi_nonneg hn)] at h1
  rwa [mem_centeredArc hs, coe_pow, ← arg_coe_angle_toReal_eq_arg, arg_pow_coe_angle,
    (Angle.nsmul_toReal_eq_mul hn0).mpr (mem_Ioc_of_Ioo ?_), abs_mul, Nat.abs_cast,
    arg_coe_angle_toReal_eq_arg] at h2
  rwa [neg_div, mem_Ioo, ← abs_lt, arg_coe_angle_toReal_eq_arg]
```
and this
```
theorem hasBasis_centeredArc_div_two_pow :
    (nhds (1 : Circle)).HasBasis (fun _ ↦ True) (fun n ↦ centeredArc (π / (2 ^ (n + 1)))) := by
  rw [← Circle.exp_zero, ← isLocalHomeomorph_circleExp.map_nhds_eq 0]
  refine ((nhds_basis_zero_abs_lt ℝ).to_hasBasis
      (fun x hx ↦ ⟨Nat.ceil (Real.pi / x), trivial, fun t ht ↦ ?_⟩)
        fun k _ ↦ ⟨Real.pi / 2 ^ (k + 1), by positivity, le_rfl⟩).map Circle.exp
  rw [Set.mem_setOf_eq] at ht ⊢
  refine lt_of_lt_of_le ht ?_
  rw [div_le_iff₀' (pow_pos two_pos _), ← div_le_iff₀ hx]
  refine (Nat.le_ceil (Real.pi / x)).trans ?_
  exact_mod_cast (Nat.le_succ _).trans Nat.lt_two_pow_self.le

/-- If all positive powers of a point on the circle lie in the right half centered arc,
then the point is `1`. -/
theorem eq_one_of_forall_pow_mem_centeredArc_pi_div_two {z : Circle}
    (hz : ∀ n > 0, z ^ n ∈ centeredArc (π / 2)) : z = 1 := by
  have hz1 : z ∈ centeredArc (π / 2) := by simpa using hz 1
  have h (n : ℕ) : z ∈ centeredArc (π / 2 ^ (n + 1)) := by
    induction n with
    | zero => simpa using hz 1
    | succ n ih =>
      simpa [div_div, ← pow_succ'] using mem_centeredArc_div (div_le_self pi_nonneg one_le_two)
        (by simpa) (hz (2 ^ (n + 1)) (by positivity))
  simpa [h] using Set.ext_iff.mp hasBasis_centeredArc_div_two_pow.ker z
```

Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Thanks, this works. I added this as extra centeredArc API.

File: Mathlib/Analysis/Complex/Circle.lean [hunk 7]
```diff
@@ -120,6 +120,12 @@ def exp : C(ℝ, Circle) where
 @[simp, norm_cast]
 theorem coe_exp (t : ℝ) : exp t = Complex.exp (t * Complex.I) := rfl
 
+theorem cos_eq_cos_of_exp_eq_exp {x y : ℝ} (h : exp x = exp y) : Real.cos x = Real.cos y := by
+  simpa using congr(($h : ℂ).re)
+
+theorem sin_eq_sin_of_exp_eq_exp {x y : ℝ} (h : exp x = exp y) : Real.sin x = Real.sin y := by
+  simpa using congr(($h : ℂ).im)
```
Comment (tb65536) [inline Mathlib/Analysis/Complex/Circle.lean]: I wouldn't bother keeping these (since `exp x = exp y` actually implies `x = y`).

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 8]
```diff
@@ -55,21 +52,14 @@ instance [LocallyCompactSpace H] : LocallyCompactSpace (PontryaginDual H) := by
...
-    refine (Nat.le_ceil (Real.pi / x)).trans ?_
-    exact_mod_cast (Nat.le_succ _).trans Nat.lt_two_pow_self.le
+  · simpa [Vn] using Circle.hasBasis_centeredArc_div_two_pow
 
 variable {A B C G}
 
 namespace PontryaginDual
 
 open ContinuousMonoidHom
+open Real
```
Comment (tb65536) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: Maybe open Real earlier so that you can use it in the previous proof?

Comment (dannyply) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: Moved earlier

File: Mathlib/Analysis/SpecialFunctions/Complex/Circle.lean [hunk 9]
```diff
@@ -34,13 +34,55 @@ theorem injective_arg : Injective fun z : Circle => arg z := fun z w h =>
...
   rw [coe_exp, exp_mul_I, arg_cos_add_sin_mul_I ⟨h₁, h₂⟩]
 
 @[simp]
 theorem exp_arg (z : Circle) : exp (arg z) = z :=
   injective_arg <| arg_exp (neg_pi_lt_arg _) (arg_le_pi _)
 
+/-- The image under `Circle.exp` of the interval of angles `(-r, r)`. -/
+def centeredArc (r : ℝ) : Set Circle :=
+  exp '' {x | |x| < r}
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Complex/Circle.lean]: You have to move this material down a bit in the file to get this, but it's likely worth it.
```lean
lemma bijOn_exp_Ioo_centeredArc {r : ℝ} (hr : r ≤ π) :
    BijOn Circle.exp (Ioo (-r) r) (centeredArc r) := by
  simp_rw [centeredArc, abs_lt, Set.Ioo_def]
  refine exp_injOn_Ico ?_ |>.mono Ioo_subset_Ico_self |>.bijOn_image
  grind
```
Alternatively, you could implement a (family of) `PartialEquiv` using `Circle.exp` and `Complex.arg ∘ Subtype.val` (when `r ≤ π`) going between `Ioo (-r) r` and `centeredArc r`. This would I think allow the proof of `mem_centeredArc_div` to be simplified.

Another missing lemma is `centeredArc_mono` (or even a strict version on `Icc 0 π`).

File: Mathlib/Analysis/SpecialFunctions/Complex/Circle.lean [hunk 10]
```diff
@@ -403,6 +445,34 @@ theorem Circle.isCoveringMap_exp : IsCoveringMap exp := isAddQuotientCoveringMap
...
+    (nhds (1 : Circle)).HasBasis (fun _ ↦ True) (fun n ↦ centeredArc (π / 2 ^ (n + 1))) := by
+  rw [← Circle.exp_zero, ← isLocalHomeomorph_circleExp.map_nhds_eq 0]
+  refine ((nhds_basis_zero_abs_lt ℝ).to_hasBasis
+      (fun x hx ↦ ⟨Nat.ceil (Real.pi / x), trivial, fun t ht ↦ ?_⟩)
+        fun k _ ↦ ⟨Real.pi / 2 ^ (k + 1), by positivity, le_rfl⟩).map Circle.exp
+  rw [Set.mem_setOf_eq] at ht ⊢
+  refine lt_of_lt_of_le ht ?_
+  rw [div_le_iff₀' (pow_pos two_pos _), ← div_le_iff₀ hx]
+  refine (Nat.le_ceil (Real.pi / x)).trans ?_
+  exact_mod_cast (Nat.le_succ _).trans Nat.lt_two_pow_self.le
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Complex/Circle.lean]: I realize this is't really shorter, but after we have `compute_asymptotics`, then the last three lines should hopefully simplify entirely to that.

And I claim that this is morally the way we want to go, because you should really be using `Filter.HasBasis.map`. In order to make this work, we need a convenience lemma for constructing bases for uniformities of metric spaces:
```suggestion
  simp_rw [centeredArc, abs_lt, Set.Ioo_def, ← Real.ball_zero_eq_Ioo]
  apply Filter.HasBasis.map
  refine nhds_basis_uniformity <| Metric.mk_uniformity_basis_of_tendsto (l := Filter.atTop)
    (fun _ _ ↦ by positivity) (by simp) ?_
  simp_rw [div_eq_mul_inv, pow_succ, mul_inv_rev, ← mul_assoc]
  rw [← mul_zero (π * 2⁻¹)]
  exact tendsto_inv_atTop_zero.comp (tendsto_pow_atTop_atTop_of_one_lt (by norm_num))
    |>.const_mul _
```
and the lemma is:
```lean
open scoped Topology
lemma Metric.mk_uniformity_basis_of_tendsto {α : Type*} [PseudoMetricSpace α] {β : Type*} {p : β → Prop}
    {f : β → ℝ} {l : Filter β} [l.NeBot] (hf₀ : ∀ i, p i → 0 < f i) (hf₁ : ∀ᶠ i in l, p i)
    (hf : Filter.Tendsto f l (𝓝 0)) :
    (uniformity α).HasBasis p fun i ↦ {x | dist x.1 x.2 < f i} := by
  apply Metric.mk_uniformity_basis hf₀
  rw [nhds_basis_closedBall.tendsto_right_iff] at hf
  refine fun ε hε ↦ hf₁.and (hf ε hε) |>.exists |>.imp fun i ↦ and_imp.mpr fun hp ↦ ?_
  simp [hp, abs_of_pos (hf₀ i hp)]
```
Finally, I think you should have a docstring for this lemma that explains why you want this particular basis (which I assume is because it has the property that the pointwise square of a basis set lies in the previous basis set).

**Comment by dannyply** [comment]
Thanks for the input, I added the centeredArc API you suggested and rewrote the basis proof using Filter.HasBasis.map.

**Comment by dannyply** [comment]
Just checking in, was there anything else that should be addressed?

**Comment by tb65536** [comment]
If you've addressed the comments so far, then you should remove the awaiting-author label by tying -awaiting-author (otherwise no one will look at the PR).

**Comment by dannyply** [comment]
-awaiting-author

**Comment by dannyply** [comment]
Rebased onto current master. `lake build Mathlib.Topology.Algebra.PontryaginDual` passes locally.

Is there anything else to review on this PR? Thanks

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 11]
```diff
@@ -86,6 +76,37 @@ for PontryaginDual A
...
+  let V : Set (PontryaginDual A) := {ψ | Set.MapsTo ψ Set.univ (Circle.centeredArc (π / 2))}
+  have hVopen : IsOpen V := by
+    dsimp only [V]
+    exact isOpen_induced (ContinuousMap.isOpen_setOf_mapsTo isCompact_univ
+      (Circle.isOpen_centeredArc (π / 2)))
+  have hVeq : V = ({1} : Set (PontryaginDual A)) := by
+    ext ψ
+    refine ⟨fun hψ ↦ ?_, fun hψ ↦ ?_⟩
+    · rw [Set.mem_singleton_iff]
+      apply ContinuousMonoidHom.ext
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]:
```suggestion
    rw [Set.mem_singleton_iff]
    refine ⟨fun hψ ↦ ?_, ?_⟩
    · apply ContinuousMonoidHom.ext
```

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 12]
```diff
@@ -86,6 +76,37 @@ for PontryaginDual A
...
+      intro a
+      refine Circle.eq_one_of_forall_pow_mem_centeredArc_pi_div_two fun n hn ↦ ?_
+      change ((ψ : A →ₜ* Circle) a) ^ n ∈ Circle.centeredArc (π / 2)
+      rw [← map_pow (ψ : A →ₜ* Circle) a n]
+      exact hψ (Set.mem_univ (a ^ n))
+    · rw [Set.mem_singleton_iff] at hψ
+      subst ψ
+      intro _ _
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]:
```suggestion
    · rintro rfl _ _
```

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 13]
```diff
@@ -86,6 +76,37 @@ for PontryaginDual A
...
+    exact isOpen_induced (ContinuousMap.isOpen_setOf_mapsTo isCompact_univ
+      (Circle.isOpen_centeredArc (π / 2)))
+  have hVeq : V = ({1} : Set (PontryaginDual A)) := by
+    ext ψ
+    refine ⟨fun hψ ↦ ?_, fun hψ ↦ ?_⟩
+    · rw [Set.mem_singleton_iff]
+      apply ContinuousMonoidHom.ext
+      intro a
+      refine Circle.eq_one_of_forall_pow_mem_centeredArc_pi_div_two fun n hn ↦ ?_
+      change ((ψ : A →ₜ* Circle) a) ^ n ∈ Circle.centeredArc (π / 2)
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: This is a missing lemma about the Pontryagin dual, you should add it.

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 14]
```diff
@@ -86,6 +76,37 @@ for PontryaginDual A
...
+      rw [← map_pow (ψ : A →ₜ* Circle) a n]
+      exact hψ (Set.mem_univ (a ^ n))
+    · rw [Set.mem_singleton_iff] at hψ
+      subst ψ
+      intro _ _
+      change (1 : Circle) ∈ Circle.centeredArc (π / 2)
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: This is a missing simp lemma about the Pontryagin dual, you should add it.

**Review by j-loreaux — COMMENTED** [review]
looks pretty reasonable at this point, only a few comments.

**Comment by dannyply** [comment]
Thanks, I added `PontryaginDual.map_pow` and `@[simp] PontryaginDual.one_apply` and simplified the proof using the suggested `Set.mem_singleton_iff`/`rintro` cleanup.

  -awaiting-author

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 15]
```diff
@@ -73,6 +73,14 @@ deriving instance
   [DiscreteTopology A] → CompactSpace _
 for PontryaginDual A
 
+@[simp]
+theorem map_pow (ψ : PontryaginDual A) (a : A) (n : ℕ) : ψ (a ^ n) = ψ a ^ n :=
+  _root_.map_pow (ψ : A →ₜ* Circle) a n
```
Comment (tb65536) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: I'm surprised we would need this. Do we not have a `MonoidHomClass` instance for `PontryaginDual`?

Comment (j-loreaux) [reply Mathlib/Topology/Algebra/PontryaginDual.lean]: No, we already have this from the `deriving` line above. This lemma should go away.

File: Mathlib/Topology/Algebra/PontryaginDual.lean [hunk 16]
```diff
@@ -83,9 +73,45 @@ deriving instance
...
+  have hVeq : V = ({1} : Set (PontryaginDual A)) := by
+    ext ψ
+    rw [Set.mem_singleton_iff]
+    refine ⟨fun hψ ↦ ?_, ?_⟩
+    · apply ContinuousMonoidHom.ext
+      intro a
+      refine Circle.eq_one_of_forall_pow_mem_centeredArc_pi_div_two fun n hn ↦ ?_
+      change ((ψ : A →ₜ* Circle) a) ^ n ∈ Circle.centeredArc (π / 2)
+      rw [← PontryaginDual.map_pow ψ a n]
+      exact hψ (Set.mem_univ (a ^ n))
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/PontryaginDual.lean]: Sorry, I misdiagnosed what was happening with the `change` before. The problem is that you shouldn't be using `ContinuousMonoidHom.ext` because that's defeq abuse which is causing `ψ` to be interpreted as having type `A →ₜ* Circle` in the application `ψ a`. The `change` you wrote actually causes Lean to realize that `ψ` should have type `PontryaginDual` instead (despite your type ascription, because they are defeq).

What you should do instead is to add the appropriate `ext` lemmas, and then use the `ext1` tactic, like so:
```suggestion
    · ext1 a
      refine Circle.eq_one_of_forall_pow_mem_centeredArc_pi_div_two fun n hn ↦ ?_
      simpa using hψ (Set.mem_univ (a ^ n))
```
now the `simpa` is using the `map_pow` lemma (not the version you wrote above).

The lemma you should add is:
```lean
@[ext]
theorem ext {ψ φ : PontryaginDual A} (h : ∀ a, ψ a = φ a) : ψ = φ :=
  DFunLike.ext _ _ h
```

File: Mathlib/Topology/MetricSpace/Pseudo/Defs.lean [hunk 17]
```diff
@@ -1207,6 +1207,19 @@ namespace Metric
...
+/-- If `f` is a positive radius tending to zero, then the sets of pairs with distance less than
+`f i` form a basis of the uniformity. -/
+lemma mk_uniformity_basis_of_tendsto {β : Type*} {p : β → Prop} {f : β → ℝ}
+    {l : Filter β} [l.NeBot] (hf₀ : ∀ i, p i → 0 < f i) (hf₁ : ∀ᶠ i in l, p i)
+    (hf : Tendsto f l (𝓝 0)) :
+    (𝓤 α).HasBasis p fun i ↦ {x | dist x.1 x.2 < f i} := by
+  apply Metric.mk_uniformity_basis hf₀
+  rw [nhds_basis_closedBall.tendsto_right_iff] at hf
+  refine fun ε hε ↦ hf₁.and (hf ε hε) |>.exists |>.imp fun i ↦ and_imp.mpr fun hp ↦ ?_
+  intro hi
```
Comment (j-loreaux) [inline Mathlib/Topology/MetricSpace/Pseudo/Defs.lean]:
```suggestion
  refine fun ε hε ↦ hf₁.and (hf ε hε) |>.exists.imp fun i ↦ and_imp.mpr fun hp hi ↦ ?_
```

**Comment by dannyply** [comment]
I removed the extra `PontryaginDual.map_pow`, added the `@[ext]` lemma and used `ext1`.  Also applied the Metric proof golf.

  -awaiting-author

**Review by j-loreaux — COMMENTED** [review]
bors merge
